US06316479B1
Ethyl 3-methyl-4-isoxazolecarboxylate (1.3 g) is stirred at room temperature overnight in 5 mL of ethanol and 10 mL of 2.5 N sodium hydroxide. Dilution with water, cooling in ice, and acidification to pH 2 with 6 N hydrochloric acid precipitates an off-white solid which is collected by vacuum filtration, washed with ethanol/water, and dried under vacuum to give 1.0 g of 3-methyl-4-isoxazolecarboxylic acid.

reactant | Ethyl 3-methyl-4-isoxazolecarboxylate | 1.3 g | CC1=NOC=C1C(=O)OCC | C7H9NO3
reactant | water | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | sodium hydroxide | 2.5 N, 10 mL | [OH-].[Na+]
product | 3-methyl-4-isoxazolecarboxylic acid | 1.0 g | CC1=NOC=C1C(=O)O | C5H5NO3
